US05693320
Synthesis of 2-acetyl-4-methacryloyloxysalicylic acid
2-acetyl-4-hydroxysalicylic acid (15.0 millimole, 2.9 g) and butylhydroxytoluene (10 mg) was dissolved in tetrahydrofuran (THF). To the solution was added triethylamine (0.5 g), and the solution was cooled to 0° C. by ice bath. While stirring under a flow of nitrogen gas, methacryl chloride (20 millimole, 2.41 g) was added to the solution using a syringe over a period of 20 minutes, and the solution was kept stirred for another hour after completing the addition. After the reaction was over, the solvent was evaporated to give pale yellow powder. The powder was washed by dichloromethane and recrystallized by an aqueous solution of 0.5% hydroquinone. Dried under a reduced pressure, colorless crystal having a needle shape was obtained: m.p. 152.7° C.; yield 2.54 g, 64.1%.

reactant | 2-acetyl-4-hydroxysalicylic acid | 15.0 millimole, 2.9 g | C(C)(=O)C1(C(C(=O)O)C=CC(=C1)O)O | C9H10O5
reactant | butylhydroxytoluene | 10 mg | CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24O
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | methacryl chloride | 20 millimole, 2.41 g | CC(=C)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-acetyl-4-methacryloyloxysalicylic acid | C(C)(=O)C1(C(C(=O)O)C=CC(=C1)OC(C(=C)C)=O)O | C13H14O6
